US04636462
50 g of pyridine-2,6-dicarboxylic acid was suspended in 275 g of water. 47 g of 30% hydrogen peroxide aqueous solution and 2.8 g of sodium tungstate were added to the resulting suspension. The suspension was heated to a temperature of 90° C. for 24 hours. As a result, the carboxylic acid as starting material was gradually dissolved in the aqueous solution during heating, and fresh crystals were then deposited. 24 g of 30% hydrogen peroxide aqueous solution was further added to the solution. The solution was heated for 12 hours and then allowed to cool to obtain 48 g of colorless prismatic creptais of pyridine-2,6-dicarboxylic acid N-oxide.

reactant | pyridine-2,6-dicarboxylic acid | 50 g | N1=C(C=CC=C1C(=O)O)C(=O)O | C7H5NO4
reactant | hydrogen peroxide | 47 g | OO | H2O2
reactant | hydrogen peroxide | 24 g | OO | H2O2
solvent | water | 275 g | O | H2O
catalyst | sodium tungstate | 2.8 g | [O-][W](=O)(=O)[O-].[Na+].[Na+]
product | pyridine-2,6-dicarboxylic acid N-oxide | [N+]=1(C(=CC=CC1C(=O)O)C(=O)O)[O-] | C7H5NO5
